US04310346
A solution of 72 g of N-methyl-2-nitrobenzenesulfonamide, 35 g of tetrafluoroethylene and 4 g of powdered potassium hydroxide in 150 ml of dimethylformamide was heated at 85° for 3 hours in a pressure vessel. The reaction mixture was cooled to 25° and poured into 800 ml of water. A heavy oil was separated and the aqueous layer extracted with 150 ml of 1-chlorobutane. The heavy oil, the 1-chlorobutane extract and an additional 300 ml of 1-chlorobutane were combined and washed three times with water. The organic solution was dried over magnesium sulfate and concentrated in-vacuo to yield 85.1 g of N-methyl-N-(1,1,2,2-tetrafluoroethyl)-2-nitrobenzenesulfonamide as a viscous orange oil.

reactant | N-methyl-2-nitrobenzenesulfonamide | 72 g | CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | tetrafluoroethylene | 35 g | FC(=C(F)F)F | C2F4
reactant | potassium hydroxide | 4 g | [OH-].[K+]
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(1,1,2,2-tetrafluoroethyl)-2-nitrobenzenesulfonamide | 85.1 g | CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(C(F)F)(F)F | C9H8F4N2O4S
